US09403816B2
6-Bromo-3-phenyl-2-(trifluoromethyl)quinolin-4-ol
A mixture of 2-amino-5-bromobenzoic acid (3.01 g, 13.9 mmol), 1,1,1-trifluoro-3-phenylpropan-2-one (3.11 g, 16.5 mmol), and Eaton's reagent (9.3 mL) in a sealed tube was heated at 100° C. for 4 hours. The reaction mixture was then allowed to cool to room temperature, water was added slowly, and the mixture was stirred vigorously for about 15 minutes. The precipitated solid was collected by filtration, washed with water, and dried to provide the title compound.

reactant | 2-amino-5-bromobenzoic acid | 13.9 mmol, 3.01 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | 1,1,1-trifluoro-3-phenylpropan-2-one | 16.5 mmol, 3.11 g | FC(C(CC1=CC=CC=C1)=O)(F)F | C9H7F3O
reactant | Eaton's reagent | 9.3 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | water | O | H2O
product | 6-Bromo-3-phenyl-2-(trifluoromethyl)quinolin-4-ol | BrC=1C=C2C(=C(C(=NC2=CC1)C(F)(F)F)C1=CC=CC=C1)O | C16H9BrF3NO
